US08222248B2
A mixture of 2-[4-(2-methoxycarbonylethyl)-2,6-dimethylphenyl]-1H-indole-6-carboxylic acid (600 mg, 1.71 mmol), 2-aminoquinoline (246 mg, 1.71 mmol), EDCI (491 mg, 2.56 mmol), HOBT (254 mg, 1.88 mmol) and 1-methyl-3-propylimidazolinium iodide (140 mg, 560 μmol) in THF (10 mL) was heated in a microwave apparatus at 150° C. for 3 h then the mixture was poured into ethyl acetate and extracted with water twice and brine once. The ethyl acetate layer was dried, filtered, and removed under reduced pressure, and the residual material was chromatographed using a 20-50% gradient of heptane/ethyl acetate to afford 3-{3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-indol-2-yl]-phenyl}-propionic acid methyl ester. 1H NMR (DMSO-d6, 400 MHz): δ 11.56 (s, 1H), 11.00 (s, 1H), 8.39 (s, 2H), 8.16 (s, 1H), 7.95 (d, J=7.4 Hz, 1H), 7.88 (d, J=8.3 Hz, 1H), 7.79 (dd, J=8.3, 1.5 Hz, 1H), 7.73 (TD, J=7.0, 1.4 Hz, 1H), 7.63 (d, J=8.3 Hz, 1H), 7.52 (t, J=7.0 Hz, 1H), 7.05 (s, 2H), 6.41 (d, J=1.3 Hz, 1H), 3.62 (s, 3H), 2.85 (t, J=7.4 Hz, 2H), 2.67 (t, J=7.4 Hz, 2H), 2.12 (s, 6H). MS (m/z) 478.2 (M+1); Retention time=1.58 min (Method 10).

reactant | 2-[4-(2-methoxycarbonylethyl)-2,6-dimethylphenyl]-1H-indole-6-carboxylic acid | 1.71 mmol, 600 mg | COC(=O)CCC1=CC(=C(C(=C1)C)C=1NC2=CC(=CC=C2C1)C(=O)O)C | C21H21NO4
reactant | 2-aminoquinoline | 1.71 mmol, 246 mg | NC1=NC2=CC=CC=C2C=C1 | C9H8N2
reactant | EDCI | 2.56 mmol, 491 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.88 mmol, 254 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-methyl-3-propylimidazolinium iodide | 560 μmol, 140 mg | [I-].C[NH+]1CN(CC1)CCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-indol-2-yl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=C(C(=C1)C)C=1NC2=CC(=CC=C2C1)C(NC1=NC2=CC=CC=C2C=C1)=O)C)=O | C30H27N3O3
